US05011998
1-(diphenylamino)-1-phenyl-2-(1-naphthyl)ethylene
This compound was synthesized from diphenylbenzylamine and N-phenyl-1-naphthaldimine under the same conditions outlined for (E)-1-(diphenylamino)-1-phenyl-2-phenylethylene above. Recrystallizatiom from ethyl acetate/methanol gave small crystals mp 170-2° C. 1H NMR (200 MHz, CDCl3) δ (assignment): 6.60-6.90 (m, 2 H, aromatic), 6.80-7.38 (m, 15 H, aromatic), 7.52-7.85 (m, 6 H, aromatic). MS [m/e (70 eV, % of base peak] C10H7CHCPhNPh2 397 (M+., 43.1), 180 (PhCNPh+, 100), 77 (Ph+, 43.2); HRMS (m/z) for C30H23N (M+.), calcd. 397.183 found 397.195.

reactant | diphenylbenzylamine | C1(=CC=CC=C1)N(CC1=CC=CC=C1)C1=CC=CC=C1 | C19H17N
reactant | (E)-1-(diphenylamino)-1-phenyl-2-phenylethylene | C1(=CC=CC=C1)N(\C(=C\C1=CC=CC=C1)\C1=CC=CC=C1)C1=CC=CC=C1 | C26H21N
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | 1-(diphenylamino)-1-phenyl-2-(1-naphthyl)ethylene | C1(=CC=CC=C1)N(C(=CC1=CC=CC2=CC=CC=C12)C1=CC=CC=C1)C1=CC=CC=C1 | C30H23N
